US04596799
To a solution of 493 mg of potassium tert-butoxide in 5 mL of dimethylformamide (anhydrous) is added dropwise a solution of 556 mg of ethyl pyrrole-2-carboxylate (prepared as described in Organic Synthesis, Vol. 51, p. 100) in 5 mL of anhydrous dimethylformamide. On completion of the addition the mixture is allowed to stir at room temperature for 1 hour. To this mixture is added a solution of 1 g of 4-chloro-2-nitrobenzyl bromide in 5 mL of dimethylformamide. The reaction mixture is then heated to 75° and maintained at this temperature for 18 hours, then allowed to cool to room temperature. The reaction mixture is poured into 20 mL of ice-water and extracted with 2×30 mL of ether. The combined ethereal extracts are washed with 2×30 mL of water followed by 30 mL of saturated sodium bicarbonate solution. The ethereal extracts are dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure to yield ethyl 1-(4-chloro-2-nitrobenzyl)-pyrrole-2-carboxylate melting at 104°-106°.

reactant | potassium tert-butoxide | 493 mg | CC(C)([O-])C.[K+]
reactant | ethyl pyrrole-2-carboxylate | 556 mg | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | 4-chloro-2-nitrobenzyl bromide | 1 g | ClC1=CC(=C(CBr)C=C1)[N+](=O)[O-] | C7H5BrClNO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 1-(4-chloro-2-nitrobenzyl)-pyrrole-2-carboxylate | ClC1=CC(=C(CN2C(=CC=C2)C(=O)OCC)C=C1)[N+](=O)[O-] | C14H13ClN2O4
